US08383629B2
A solution of 7-bromo-2′,3′-dihydro-1′H-spiro[isoindoline-1,4′-pyridin]-3-one (2 g, 0.0072 mol) in CH3COOH was hydrogenated in the presence of PtO2 for 1.5 h. The catalyst was removed by filtration and the filtrate was concentrated to give the crude product which was washed with saturated aq Na2CO3. The solvent was removed to give the 7-bromospiro[isoindoline-1,4′-piperidin]-3-one (2 g, 100%).

reactant | 7-bromo-2′,3′-dihydro-1′H-spiro[isoindoline-1,4′-pyridin]-3-one | 0.0072 mol, 2 g | BrC=1C=CC=C2C(NC3(CCNC=C3)C12)=O | C12H11BrN2O
solvent | CH3COOH | CC(=O)O | C2H4O2
catalyst | PtO2 | O=[Pt]=O
product | 7-bromospiro[isoindoline-1,4′-piperidin]-3-one | 2 g, 100% | BrC=1C=CC=C2C(NC3(CCNCC3)C12)=O | C12H13BrN2O
